US04861897
The procedure of Example 28 was followed starting with 4-chloropropoxybenzaldehyde (5.0 g, 25 mmol) and using 6-methoxy-2-methylbenzothiazole (4.2 ml, 25 mmol) in place of 2-methylbenzothiazole to give (E)-2-[2-(4-chloropropoxyphenyl)ethenyl]-6-methoxybenzothiazole (2.5 g, 28% yield) as an amber oil. 1H NMR (CDCl3): δ 7.44-6.82 (m, 9H9, 4.21 (t, J=5.3 Hz, 2H), 3.93 (s, 3H), 3.41 (t, J=5.3 Hz, 2H), 2.51 (m, 2H).

reactant | 4-chloropropoxybenzaldehyde | 25 mmol, 5.0 g | ClCCCOC1=CC=C(C=O)C=C1 | C10H11ClO2
reactant | 6-methoxy-2-methylbenzothiazole | 25 mmol, 4.2 ml | COC1=CC2=C(N=C(S2)C)C=C1 | C9H9NOS
product | (E)-2-[2-(4-chloropropoxyphenyl)ethenyl]-6-methoxybenzothiazole | 2.5 g, 28% yield | ClCCCOC1=CC=C(C=C1)/C=C/C=1SC2=C(N1)C=CC(=C2)OC | C19H18ClNO2S
